Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fevers and cough
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:  
Mr. ___ is a ___ male with a history of HIV infection
(last CD4 count 1212, viral load undetectable) on HAART, who
presents with ___ days of productive cough, fevers, chills, and
moderate headache.

Patient was in his usual state of health until ___ in the AM
when he awoke with congestion, cough, malaise and fevers. 
Patient
thought that he had a cold and treated himself with tylneol and
rest. His symptoms continued to progress with increasing
productive cough and fevers measured up to 102.7. He reports 
pain
with coughing and associated headache. He endorses myalgias. 
When
his symptoms did not improve he decided to present to ___ ED
for further evaluation. 

In the ED, initial vitals:  T 102.2, HR 82, BP 128/62, RR 20, 
98%
RA

- Exam notable for:  
No meningismus, bilateral rhonchorous breath sounds, nontoxic

- Labs notable for:  
FluAPCR: Negative 
FluBPCR: Negative

Lactate:1.6

136 94 9
----------<114
3.7 28 1.3

Ca 8.6 Mg 2.0 P 1.5

7.7>12.9/38.1<256

BCx pending

- Imaging notable for:  CXR with multifocoal PNA

- Pt given:  
___ 17:33 PO Acetaminophen 1000 mg 
___ 18:07 IV Azithromycin   
___ 18:07 IVF  NS  
___ 19:26 IV CefTRIAXone (1 g ordered)
___ 19:26 IVF  NS ( 1000 mL ordered) 
___ 19:33 IV Ketorolac 15 mg   
___ 19:38 IV Azithromycin 500 mg 
___ 19:38 IVF  NS 1000 mL 

- Vitals prior to transfer:  T 102.2, HR 82, BP 128/62, RR 20,
98%RA
 
On the floor, patient endorses SOB with exertion but not on 
rest.
His biggest concern is his coughing which is very uncomfortable. 


 
Past Medical History:
PAST MEDICAL HISTORY:
Anxiety
OCD
HIV infection
oral HSV

 
Social History:
___
Family History:
Reviewed. Mother with arthritis. Father with CAD, MI

 
Physical Exam:
ADMISSION PHYSICAL EXAM
VITALS: 99.0 PO 96/59 L Lying 68 18 93 Ra 
GENERAL: AOx3, NAD, speaking in short sentences
HEENT: Normocephalic, atraumatic. Pupils equal, round, and
reactive bilaterally, extraocular muscles intact. Sclera
anicteric and without injection. Moist mucous membranes, good
dentition. Oropharynx is clear.  
NECK: Thyroid is normal in size and texture, no nodules. No
cervical lymphadenopathy.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops. No JVD.  
LUNGS: Scant rhonchi primary in mid left lung field and lower
right. + Egophany most prominent in lower right fields, but
notable in lower and mid left.   
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No clubbing, cyanosis, or edema, no sign of
atrophy/hypertrophy. Pulses DP/Radial 2+ bilaterally.  
SKIN: No evidence of ulcers, rash or lesions suspicious for
malignancy  
NEUROLOGIC: CN2-12 intact. ___ strength througout. Normal
sensation.  

DISCHARGE PHYSICAL EXAM
 VITALS: 99.1 PO 110 / 67 L Lying 63 18 93 Ra    
 GENERAL: AOx3, NAD  
 HEENT: Normocephalic, atraumatic. Sclera anicteric and without
injection. Moist mucous membranes, good dentition. Oropharynx is
clear.  
 NECK: Supple.  
 CARDIAC: Regular rhythm, normal rate. S1/S2 normal. No m/r/g
LUNGS: Scant rhonchi primary in mid left lung field and lower
right. + Egophany most prominent in lower right fields, but
notable in lower and mid left.  
 ABDOMEN: Soft, NT, ND 
 EXTREMITIES: No clubbing, cyanosis, or edema
 SKIN: No evidence of ulcers, rash or lesions suspicious for
malignancy  
 NEUROLOGIC: CN2-12 intact grossly intact and extremities are
moving spontaneously

 
Pertinent Results:
ADMISSION LABS
--------------
___ 05:41PM BLOOD WBC-7.7# RBC-4.17* Hgb-12.9* Hct-38.1* 
MCV-91 MCH-30.9 MCHC-33.9 RDW-12.9 RDWSD-43.2 Plt ___
___ 05:41PM BLOOD Neuts-75.8* Lymphs-15.9* Monos-6.2 
Eos-1.3 Baso-0.3 Im ___ AbsNeut-5.87 AbsLymp-1.23 
AbsMono-0.48 AbsEos-0.10 AbsBaso-0.02
___ 05:41PM BLOOD ___ PTT-28.8 ___
___ 05:41PM BLOOD Plt ___
___ 05:41PM BLOOD Glucose-114* UreaN-9 Creat-1.3* Na-136 
K-3.7 Cl-94* HCO3-28 AnGap-14
___ 05:41PM BLOOD Calcium-8.6 Phos-1.5* Mg-2.0
___ 05:56PM BLOOD Lactate-1.6

IMAGING
-------
CXR:
IMPRESSION:  
Multifocal pneumonia. Follow up radiographs after treatment are 
recommended to ensure resolution of these findings. 

DISCHARGE LABS
--------------
___ 06:14AM BLOOD WBC-7.7 RBC-3.82* Hgb-11.8* Hct-34.4* 
MCV-90 MCH-30.9 MCHC-34.3 RDW-13.1 RDWSD-43.0 Plt ___
___ 06:14AM BLOOD Plt ___
___ 06:14AM BLOOD Glucose-110* UreaN-11 Creat-1.3* Na-139 
K-3.9 Cl-100 HCO3-25 AnGap-___ year old HIV positive male on HAART with
suppressed VL and CD4 most recently >1200 here with multifocal
PNA. 

# Community acquired multifocal pneumonia: Patient presented
with dyspnea, ___ days of productive cough, subjective fevers,
chills and found to have multifocal pneumonia on CXR. Patient 
not
at risk for resistant organism or OI given no frequent contact
with medical system and suppressed HIV. He was initially on 
ceftriaxone and azithromycin and will be switched to amoxicillin 
and azithromycin for a 7 day course.

TRANSITIONAL ISSUES
-------------------
[] Patient will be on amoxicillin and azithromycin for 7 full 
day course to end on ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Emtricitabine-Tenofovir alafen (Descovy) 1 TAB PO DAILY 
2. FLUoxetine 20 mg PO DAILY 
3. ClonazePAM 0.5-1 mg PO QHS anixety 
4. ValACYclovir ___ mg PO Q12H 
5. Dolutegravir 50 mg PO DAILY 

 
Discharge Medications:
1.  Amoxicillin 1000 mg PO Q8H 
RX *amoxicillin 500 mg 2 capsule(s) by mouth every 8 hours Disp 
#*36 Capsule Refills:*0 
2.  Azithromycin 250 mg PO Q24H 
RX *azithromycin 250 mg 1 tablet(s) by mouth daily Disp #*6 
Tablet Refills:*0 
3.  ClonazePAM 0.5-1 mg PO QHS anixety  
4.  Dolutegravir 50 mg PO DAILY  
5.  Emtricitabine-Tenofovir alafen (Descovy) 1 TAB PO DAILY  
6.  FLUoxetine 20 mg PO DAILY  
7.  ValACYclovir ___ mg PO Q12H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
-----------------
Multifocal pneumonia

SECONDARY DIAGNOSIS
-------------------
Chronic Kidney Disease
HIV

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___.

You came to the hospital because you had a pneumonia or a 
bacterial infection of your lungs. We treated you with 
antibiotics through the IV, and because you were doing so well, 
we switched you to an antibiotic that you can take by mouth.

It is very important that you follow up with your primary care 
doctor. The ___ nurses ___ you call you ___ to check up 
on you but if you do not hear from them, please call the ___ 
___.

Please take your antibiotics as prescribed.
 
Followup Instructions:
___